US06372759B1
A) 4-t-Butyldimethylsilyloxy-N2-(4-t-butylbenzoyl)-N1-(6-indolylcarbonyl)-1,2-benzenediamine
Using the procedure described in Example 9, Part C, 4-t-butyldimethylsilyloxy-N2-(4-t-butylbenzoyl)-1,2-benzenediamine (1.15 g, 2.9 mmol) and indole-6-carboxylic acid (0.46 g, 2.9 mmol) yielded 780 mg (50%) of the title compound.

reactant | 4-t-butyldimethylsilyloxy-N2-(4-t-butylbenzoyl)-1,2-benzenediamine | 2.9 mmol, 1.15 g | [Si](C)(C)(C(C)(C)C)OC=1C=C(C(=CC1)N)NC(C1=CC=C(C=C1)C(C)(C)C)=O | C23H34N2O2Si
reactant | indole-6-carboxylic acid | 2.9 mmol, 0.46 g | N1C=CC2=CC=C(C=C12)C(=O)O | C9H7NO2
product | 4-t-Butyldimethylsilyloxy-N2-(4-t-butylbenzoyl)-N1-(6-indolylcarbonyl)-1,2-benzenediamine | 780 mg, 50% | [Si](C)(C)(C(C)(C)C)OC=1C=C(C(=CC1)NC(=O)C1=CC=C2C=CNC2=C1)NC(C1=CC=C(C=C1)C(C)(C)C)=O | C32H39N3O3Si
